US04536503
Preparation of 4-(1-naphthyloxy)-1-methoxybutane
A solution of 4-(1-naphthyloxy)-butyl chloride (3.0 g) and sodium methoxide (1.5 g) in methanol (25 ml) was refluxed for 8 hours, then poured into water and the solution extracted with ether. The extract was dried and evaporated and the residue chromatographed on silica gel, eluting with 2:1 hexane ether, to produce the title compound as an oil.

reactant | 4-(1-naphthyloxy)-butyl chloride | 3.0 g | C1(=CC=CC2=CC=CC=C12)OCCCCCl | C14H15ClO
reactant | sodium methoxide | 1.5 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | 4-(1-naphthyloxy)-1-methoxybutane | C1(=CC=CC2=CC=CC=C12)OCCCCOC | C15H18O2
